US09315521B2
2-{[(5-fluoropyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride
To a mixture of 2-{[(5-fluoropyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (185 mg, 0.74 mmol) in MeOH (2 mL) was added 4 M HCl/dioxane (1 mL, 4.0 mmol). The mixture was evaporated and dried in vacuo, affording the title compound (213 mg, 99% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.22 (s, 3H), 4.43 (s, 2H), 6.09 (s, 1H), 7.96 (td, 1H, J=2.7 Hz, 7.4 Hz), 8.57 (d, 1H, J=2.5 Hz), 8.62 (t, 1H, J=1.6 Hz); M+252.

reactant | 2-{[(5-fluoropyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 0.74 mmol, 185 mg | FC=1C=C(C=NC1)CSC1=NC(=CC(=N1)O)C | C11H10FN3OS
reactant | HCl dioxane | 4.0 mmol, 4 M, 1 mL | Cl.O1CCOCC1
solvent | MeOH | 2 mL | CO | CH4O
product | 2-{[(5-fluoropyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride | 213 mg, 99% yield | Cl.FC=1C=C(C=NC1)CSC1=NC(=CC(=N1)O)C | InChI=1S/C11H10FN3OS.ClH/c1-7-2-10(16)15-11(14-7)17-6-8-3-9(12)5-13-4-8;/h2-5H,6H2,1H3,(H,14,15,16);1H
